US04734416
(a)-2 5 Grams of 5-[3-(4-benzylpiperazinyl)propoxy]-3,4-dihydrocarbostyril and 0.8 g of 5%-Pd charcoal are added into 150 ml of isopropanol and catalytically reduced at 60° C. for 5 hours under 3 atm. of hydrogen gas pressure. The catalyst is removed by filtration and the mother liquor thus obtained is concentrated under reduced pressure. The residue is recrystallized from ligroin-benzene to obtain 4.1 g of 5-(3-piperazinylpropoxy)-3,4-dihydrocarbostyril in the form of colorless prism-like crystals having a melting point of 195°-196° C.

reactant | 5-[3-(4-benzylpiperazinyl)propoxy]-3,4-dihydrocarbostyril | C(C1=CC=CC=C1)N1CCN(CC1)CCCOC1=C2CCC(NC2=CC=C1)=O | C23H29N3O2
reactant | hydrogen | [H][H] | H2
solvent | isopropanol | 150 ml | C(C)(C)O | C3H8O
product | 5-(3-piperazinylpropoxy)-3,4-dihydrocarbostyril | 4.1 g | N1(CCNCC1)CCCOC1=C2CCC(NC2=CC=C1)=O | C16H23N3O2
